US05688815
At room temperature and under normal pressure, 0.6 g of 3-benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-pyridin-3-yl-methyl)-1H-pyridin-4-one are hydrogenated in 20 ml of methanol until 1 mol of H2 per mol of starting material has been taken up. The catalyst is removed by filtration and the flitrate is concentrated to dryness by evaporation. The residue is recrystallised from methanol, yielding 3-hydroxy-1-(2-hydroxy-ethyl)-2-(hydroxy-pyridin-3-yl-methyl)-1H-pyridin-4-one in the form of colourless crystals, m.p.: 189°-190.5° C.

reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-pyridin-3-yl-methyl)-1H-pyridin-4-one | 0.6 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C=1C=NC=CC1)O | C20H20N2O4
solvent | methanol | 20 ml | CO | CH4O
product | 3-hydroxy-1-(2-hydroxy-ethyl)-2-(hydroxy-pyridin-3-yl-methyl)-1H-pyridin-4-one | OC1=C(N(C=CC1=O)CCO)C(C=1C=NC=CC1)O | C13H14N2O4
